US07022846B2
A suspension of 4-(4-Acetoxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3(S)-carboxylic acid tert-butyl ester (1 kg, 2.33 mol) and potassium carbonate (354 g, 2.56 mol) in methanol (5 L) and water (500 mL) was stirred at ambient temperature (internal temp=28° C.) for 3.5 hours. The reaction was determined to be complete by TLC (1:1 EtOAc/hexane). The solvent was removed under vacuum. The residue was diluted with water (5 L) and the pH adjusted to 2 with 12 M hydrochloric acid (˜400 mL). The resulting solid was collected by filtration, washed with water, and dried in a vacuum oven at 60° C. to give 879 g of 4-(4hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3(S)-carboxylic acid tert-butyl ester (97% yield). This compound had the following properties: m.p. 171.3° C.; [α]D25=−1.97° (c 0.61, MeOH); IR (KBr): 3376, 2978, 2936, 1734, 1601, 1587, 1369, 1325 cm−1; 1H NMR (300 MHz, CDCl3): δ 7.61 (d, J=8.8 Hz, 2H, ArH), 6.86 (d, J=8.8 Hz, 2H, ArH), 4.30 (s, 1H, CαH), 4.04 (m, 1H), 3.85 (dt, J=12.7 and 2.6 Hz, 1H), 3.11 (dt, J=13.6 and 4.1 Hz, 1H), 2.43 (br d, J=13.6 Hz, 1H), 1.60 (s, 3H, CH3), 1.33 (s, 3H, CH3), 1.31 (s, 9H, But); 13C NMR (75 MHz, CDCl3): δ168.1 (C═O), 160.3, 131.8, 129.7 (×2), 116.2 (×2), 82.8, 63.9, 41.5, 40.6, 29.1, 28.3 (×3), 27.8, 25.0; Anal. Calculated for C17H25NO5S2+0.5% water (Karl Fisher analysis): C, 52.69; H, 6.50; N, 3.61; S, 16.55. Found: C, 52.73; H, 6.54; N, 3.64; S, 16.45.

reactant | 4-(4-Acetoxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3(S)-carboxylic acid tert-butyl ester | 2.33 mol, 1 kg | C(C)(C)(C)OC(=O)[C@@H]1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)OC(C)=O | C19H27NO6S2
reactant | potassium carbonate | 2.56 mol, 354 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | methanol | 5 L | CO | CH4O
solvent | water | 500 mL | O | H2O
product | 4-(4hydroxy-benzenesulfonyl)-2,2-dimethyl-thiomorpholine-3(S)-carboxylic acid tert-butyl ester | 879 g, 97% yield | C(C)(C)(C)OC(=O)[C@@H]1N(CCSC1(C)C)S(=O)(=O)C1=CC=C(C=C1)O | C17H25NO5S2
